US07157447B2
Ethyl hydrogen 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate.
A solution of intermediate 187, diethyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate (0.115 g, 0.20 mmol) in tetrahydrofuran (3 ml)/ethanol (3 mL) was treated with 1 N aqueous sodium hydroxide (1.0 ml, 1.0 mmol) and the resulting mixture heated at 45° C. for 2 h. The reaction mixture was then diluted with ethyl acetate, washed with 0.1 N hydrochloric acid, brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified on a Shimadzu automated preparative HPLC system (column YMC Pack C-18, 5μ, 20×250 mm, elution gradient acetonitrile-water 0.1% trifluoroacetic acid) to give 0.070 g (64% yield) of the title material as a clear oil. 1HNMR 400 MHz (CDCl3) δ ppm: 1.37 (3H, t, J=7.1 Hz, CH3), 1.62 (6H, s, 2×CH3), 4.04 (4H, m, 2×CH2), 4.18 (2H, m, OCH2), 4.75 (2H, broad d, J=5 Hz, NCH2), 5.32 (2H, s, OCH2), 7.21 (1H, m, aromatic), 7.30–7.33 (3H, m, aromatics), 7.38–7.40 (2H, m, aromatics), 7.47–7.52 (1H, m, aromatic), 7.56–7.63 (1H, m, aromatic), 8.56 (1H, broad t, NH). HRMS (ESI+) calculated for C26H30FN3O7P [M+H+]: 546.1805. found: 546.1786.

reactant | diethyl 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate | 0.20 mmol, 0.115 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C=C(C=C1)F)P(OCC)(OCC)=O | C28H33FN3O7P
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1.0 mmol, 1 N, 1.0 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl hydrogen 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate | 0.070 g, 64% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C=C(C=C1)F)P(OCC)(O)=O | C26H29FN3O7P
